Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Br[CH2:1][c:2]1[c:3]([Br:4])[cH:5][cH:6][c:7]([C:8]#[N:9])[cH:10]1.[CH2:11]1[CH2:12][S:13][CH2:14][CH2:15][NH:16]1>>[CH2:1]([c:2]1[c:3]([Br:4])[cH:5][cH:6][c:7]([C:8]#[N:9])[cH:10]1)[N:16]1[CH2:11][CH2:12][S:13][CH2:14][CH2:15]1,[Br:101][CH2:1][c:2]1[c:3]([Br:4])[cH:5][cH:6][c:7]([C:8]#[N:9])[cH:10]1.[CH2:11]1[CH2:12][S:13][CH2:14][CH2:15][NH:16]1>>[CH2:1]([c:2]1[c:3]([Br:4])[cH:5][cH:6][c:7]([C:8]#[N:9])[cH:10]1)[N:16]1[CH2:11][CH2:12][S:13][CH2:14][CH2:15]1,SN2,"[(16, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[CH2:3][CH2:4][CH2:5][S:6][c:7]1[cH:8][cH:9][c:10]([OH:11])[cH:12][cH:13]1.[CH3:14][NH:15][CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][c:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1](=[O:2])([CH2:3][CH2:4][CH2:5][S:6][c:7]1[cH:8][cH:9][c:10]([OH:11])[cH:12][cH:13]1)[N:15]([CH3:14])[CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][c:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,[CH3:14][NH:15][CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][c:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[OH:101][C:1](=[O:2])[CH2:3][CH2:4][CH2:5][S:6][c:7]1[cH:8][cH:9][c:10]([OH:11])[cH:12][cH:13]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([CH2:3][CH2:4][CH2:5][S:6][c:7]1[cH:8][cH:9][c:10]([OH:11])[cH:12][cH:13]1)[N:15]([CH3:14])[CH2:16][c:17]1[cH:18][cH:19][cH:20][cH:21][c:22]1-[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (15, 1), ([1, 2], 2), (303, 15.1), ([15.1, 15], 15), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][C:3](=[O:4])[N:5]1[CH2:6][CH2:7][CH2:8][CH2:9]1.[N:10]#[C:11][S-:12]>>[CH2:1]([CH2:2][C:3](=[O:4])[N:5]1[CH2:6][CH2:7][CH2:8][CH2:9]1)[S:12][C:11]#[N:10],[Cl:101][CH2:1][CH2:2][C:3](=[O:4])[N:5]1[CH2:6][CH2:7][CH2:8][CH2:9]1.[N:10]#[C:11][S-:12]>>[CH2:1]([CH2:2][C:3](=[O:4])[N:5]1[CH2:6][CH2:7][CH2:8][CH2:9]1)[S:12][C:11]#[N:10],SN2,"[(12, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][n:6][o:7]1.[CH3:8][c:9]1[n:10][c:11](-[c:12]2[c:13]([F:14])[cH:15][c:16]([Cl:17])[cH:18][c:19]2-[c:20]2[cH:21][cH:22][c:23]3[c:24]([cH:25]2)[CH2:26][CH2:27][C@@H:28]3[NH:29][C:30](=[O:31])[C:32]2([NH2:33])[CH2:34][CH2:35]2)[n:36][o:37]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][n:6][o:7]1)[NH:33][C:32]1([C:30]([NH:29][C@@H:28]2[c:23]3[cH:22][cH:21][c:20](-[c:19]4[c:12](-[c:11]5[n:10][c:9]([CH3:8])[o:37][n:36]5)[c:13]([F:14])[cH:15][c:16]([Cl:17])[cH:18]4)[cH:25][c:24]3[CH2:26][CH2:27]2)=[O:31])[CH2:34][CH2:35]1,[CH3:8][c:9]1[n:10][c:11](-[c:12]2[c:13]([F:14])[cH:15][c:16]([Cl:17])[cH:18][c:19]2-[c:20]2[cH:21][cH:22][c:23]3[c:24]([cH:25]2)[CH2:26][CH2:27][C@@H:28]3[NH:29][C:30](=[O:31])[C:32]2([NH2:33])[CH2:34][CH2:35]2)[n:36][o:37]1.[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][n:6][o:7]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][n:6][o:7]1)[NH:33][C:32]1([C:30]([NH:29][C@@H:28]2[c:23]3[cH:22][cH:21][c:20](-[c:19]4[c:12](-[c:11]5[n:10][c:9]([CH3:8])[o:37][n:36]5)[c:13]([F:14])[cH:15][c:16]([Cl:17])[cH:18]4)[cH:25][c:24]3[CH2:26][CH2:27]2)=[O:31])[CH2:34][CH2:35]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (33, 1), ([1, 2], 2), (303, 33.1), ([33.1, 33], 33), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
